US08877749B2
To a solution of (R)-benzyl 3-oxocyclopentanecarboxylate (1 g, 4.58 mmol) in THF (10 mL) was added zinc powder (2.098 mL, 229 mmol), saturated aqueous ammonium chloride solution (20 mL) followed by 3-bromoprop-1-ene (1.663 g, 13.75 mmol) slowly at room temperature. The resulting mixture was heated to 80° C. for 3 hours, then allowed to stir at room temperature for additional 12 hours. The reaction mixture was filtered and the filtrate concentrated. To the residue was added ethyl acetate (20 mL) and the resulting mixture was washed with water (5 ml), brine (5 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure to yield (1R)-benzyl 3-allyl-3-hydroxycyclopentanecarboxylate (580 mg, 2.228 mmol, 48.6% yield) as an oil. It was used as such for the next step without further purification. MS (ESI+) m/z 283 (M+Na)+

reactant | (R)-benzyl 3-oxocyclopentanecarboxylate | 4.58 mmol, 1 g | O=C1C[C@@H](CC1)C(=O)OCC1=CC=CC=C1 | C13H14O3
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | 3-bromoprop-1-ene | 13.75 mmol, 1.663 g | BrCC=C | C3H5Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | zinc | 229 mmol, 2.098 mL | [Zn] | Zn
product | (1R)-benzyl 3-allyl-3-hydroxycyclopentanecarboxylate | 2.228 mmol, 580 mg, 48.6% yield | C(C=C)C1(C[C@@H](CC1)C(=O)OCC1=CC=CC=C1)O | C16H20O3
